US05504085
A. 3-Chloro-2-methoxy-6-nitroquinoxaline
A slurry of 6.1 g (25 mmol) of 2,3-dichloro-6-nitroquinoxaline in 70 ml of dry methanol was heated to 50° C and treated dropwise over 5 h with 0.7 g (30 mmol) of sodium dissolved in 70 ml of dry methanol. The mixture was stirred over night at 50° C., cooled and filtered. The resulting precipitate was washed with cold ethanol and water and finally chromatographed on silica gel with toluene to give 3.5 g (58%) of the title compound; m.p. 155-158° C.; 1H-NMR (DMSO-d6): δ4.17 (s, 3H, CH3), 8.05 (d,J=9 Hz, 1H, H-8), 8.48 (dd, J7-8 =9 Hz, J7-5 =2 Hz, 1H, H-7), 8.73 (d, J=2 Hz, 1H, H-5).

reactant | 2,3-dichloro-6-nitroquinoxaline | 25 mmol, 6.1 g | ClC1=NC2=CC=C(C=C2N=C1Cl)[N+](=O)[O-] | C8H3Cl2N3O2
reactant | sodium | 30 mmol, 0.7 g | [Na] | Na
reactant | methanol | 70 ml | CO | CH4O
reactant | methanol | 70 ml | CO | CH4O
product | 3-Chloro-2-methoxy-6-nitroquinoxaline | 3.5 g, 58% | ClC=1C(=NC2=CC=C(C=C2N1)[N+](=O)[O-])OC | C9H6ClN3O3
